US07247734B2
7-Hydroxy-3-phenyl-chromen-4-one (0.2 g, 0.84 mmol) was dissolved in ethanol (5 ml) and heated to ˜60° C. Hydrazine hydrate (5 ml) was added, and the solution refluxed until no starting material was visible by TLC (45 mins). After this time the majority of the ethanol was remove under vacuum and the residue quenched with cold water. The residue was extracted into ethyl acetate, washed (water), and the solvent removed under vacuum to give 4-(4-Phenyl-1H-pyrazol-3-yl)-benzene-1,3-diol as a white solid (0.17 g, 80.3%); Rf 0.65 ethyl acetate/hexane (70/30)].

reactant | 7-Hydroxy-3-phenyl-chromen-4-one | 0.84 mmol, 0.2 g | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | Hydrazine hydrate | 5 ml | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(4-Phenyl-1H-pyrazol-3-yl)-benzene-1,3-diol | 0.17 g, 80.3% | C1(=CC=CC=C1)C=1C(=NNC1)C1=C(C=C(C=C1)O)O | C15H12N2O2
